US05059611
3-(5-Trimethylsilyl-3-furyl)propionic acid
A solution of potassium hydroxide (446 mg, 7.96 mmol) in 95% ethanol/water (4 ml) was added to a solution of methyl 3-(5-trimethylsilyl-3-furyl)propionate(1.2 g, 5.3 mmol), prepared as in Example 2, in 95% ethanol/water (4ml) at 0°. After stirring at 0° for 5 hours and at room temperature for 5 hours, most of the solvent was evaporated. The residue was dissolved in ethyl acetate (15 ml), acidified with hydrochloric acid and the mixture then extracted thoroughly with ethyl acetate. Evaporation of the dried (magnesium sulfate) extracts gave an oil, which on crystallization from hexane (-78°) gave the title acid as colorless needles, mp ca. 25°.

reactant | potassium hydroxide | 7.96 mmol, 446 mg | [OH-].[K+]
reactant | methyl 3-(5-trimethylsilyl-3-furyl)propionate | 5.3 mmol, 1.2 g | C[Si](C1=CC(=CO1)CCC(=O)OC)(C)C | C11H18O3Si
solvent | ethanol water | 4 ml | C(C)O.O
solvent | ethanol water | 4ml | C(C)O.O
product | 3-(5-Trimethylsilyl-3-furyl)propionic acid | C[Si](C1=CC(=CO1)CCC(=O)O)(C)C | C10H16O3Si
